US06407099B1
To an 100 ml tetrahydrofuran solution of 3.5 g of N-tert-butoxycarbonyl-4-piperidone, a 35 ml of 4-phenoxyphenyl magnesium bromide prepared from 4-bromodiphenyl ether (0.6 mol/l tetrahydrofuran solution) was dropwise added under ice cooling and the resultant mixture was stirred for 1 hour. To the reaction mixture was added a 30 ml of saturated aqueous ammonium chloride solution. The product was extracted with ether. The extract was washed with saturated saline, dried, filtered, then concentrated under reduced pressure to give a residue, which was then purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give N-tert-butoxycarbonyl-4-(4-phenoxyphenyl)-4-piperidinol in an amount of 2.92 g (yield 45%).

reactant | N-tert-butoxycarbonyl-4-piperidone | 3.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-phenoxyphenyl magnesium bromide | 35 ml | O(C1=CC=CC=C1)C1=CC=C(C=C1)[Mg]Br
reactant | 4-bromodiphenyl ether | 0.6 mol/l | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-4-(4-phenoxyphenyl)-4-piperidinol | yield 45% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H27NO4
